US08461330B2
Step 3: 2-fluoro-N-(2-methoxy-1-methylethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
A mixture of 2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid (19 mg, 0.045 mmol), 1-methoxypropan-2-amine (8 mg, 0.090 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (40 mg, 0.090 mmol), and N,N-diisopropylethylamine (31 μL, 0.18 mmol) in N,N-dimethylformamide (0.5 mL) was stirred at RT for 2 h. The reaction mixture was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=496.1

reactant | 2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoic acid | 0.045 mmol, 19 mg | FC1=C(C(=O)O)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C25H17FN4O2
reactant | 1-methoxypropan-2-amine | 0.090 mmol, 8 mg | COCC(C)N | C4H11NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.090 mmol, 40 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.18 mmol, 31 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-fluoro-N-(2-methoxy-1-methylethyl)-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | FC1=C(C(=O)NC(COC)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C29H26FN5O2
